US07247734B2
This compounds was synthesised in the same manner as described above. Ethyl resorcinol (0.83 g, 6 mmol), phenylacetic acid (0.82 g, 6 mmol), BF3Et2O (3.88 ml, 31.5 mmol), PCl5 (1.88 g, 9 mmol), DMF (4.6 ml and 10 ml). The precipitate formed was filtered and re-crystallized from methanol to give 6-Ethyl-7-hydroxy-3-phenyl-chromen-4-one as a pale brown solid (1.4 g, 87.7%); Rf 0.4 cf SM 0.5 ethyl acetate/hexane (40/60).

reactant | Ethyl resorcinol | 6 mmol, 0.83 g | C(C)C1=C(O)C=CC=C1O | C8H10O2
reactant | phenylacetic acid | 6 mmol, 0.82 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | PCl5 | 9 mmol, 1.88 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 4.6 ml | CN(C)C=O | C3H7NO
product | 6-Ethyl-7-hydroxy-3-phenyl-chromen-4-one | 1.4 g, 87.7% | C(C)C=1C=C2C(C(=COC2=CC1O)C1=CC=CC=C1)=O | C17H14O3
